US05977105
f) (±)-1-(3'-Acetylbiphenyl-4-yl)-5-(3-pyridyl)pent-1-yn-3-ol
3'-Acetyl-4-trifluoromethanesulfonyloxybiphenyl (2.0 g), (±)-5-(3-pyridyl)pent-1-yn-3-ol (1.4 g), bis(triphenylphosphine)palladium(II) chloride (0.2 g) in N,N-dimethylformamide (8 ml) and triethylamine (4.5 ml) were heated at 90° C. for 2 hours with stirring under nitrogen. After cooling the reaction was poured into water and extracted with dichloromethane. The organic solution was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethanol:dichloromethane (3:97) to give the sub-title compound as a pale yellow gum (1.33 g).

reactant | 3'-Acetyl-4-trifluoromethanesulfonyloxybiphenyl | 2.0 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C15H11F3O4S
reactant | (±)-5-(3-pyridyl)pent-1-yn-3-ol | 1.4 g | N1=CC(=CC=C1)CCC(C#C)O | C10H11NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (±)-1-(3'-Acetylbiphenyl-4-yl)-5-(3-pyridyl)pent-1-yn-3-ol | 1.33 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C#CC(CCC=1C=NC=CC1)O | C24H21NO2
